US09382243B2
1-(cyclopropylsulfonyl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine
1-(4-bromophenyl)piperazine (1 g, 4.15 mmol) was dissolved in DCM (40 ml) and cooled to 0° C. Then DMAP (0.051 g, 0.415 mmol), triethylamine (0.723 ml, 5.18 mmol), and cyclopropanesulfonyl chloride (0.644 g, 4.58 mmol) were added. The reaction was stirred 1 h at rt, then diluted with DCM and saturated NH4Cl/water (1:1). The aqueous phase was extracted with EtOAc (×2) and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was dissolved in DMSO (17 ml), and then bis(pinacolato)diboron (2.106 g, 8.29 mmol) and potassium acetate (1.221 g, 12.44 mmol) were added. The reaction was sparged with N2 for 15 min, then [1,1′-Bis(Diphenyl-phosphino)Ferrocene]Dichloropalladium (II) (0.607 g, 0.829 mmol) was added and the reaction heated to 80° C. overnight. The reaction was diluted with water and EtOAc. The aqueous phase was separated, extracted with EtOAc (×2) and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 50 g column eluted with 20% to 80% EtOAc:Hexane to provide the desired product. 1H NMR δ (ppm) 7.79 (d, 2H), 7.24 (d, 2H), 3.96 (d, 2H), 2.94 (t, 2H), 2.69-2.63 (m, 1H), 2.35-2.30 (m, 1H), 1.95 (br d, 2H), 1.86 (ddd, 2H), 1.36 (s, 12H), 1.28-1.20 (m, 2H), 1.04-1.00 (m, 2H).

reactant | 1-(4-bromophenyl)piperazine | 4.15 mmol, 1 g | BrC1=CC=C(C=C1)N1CCNCC1 | C10H13BrN2
reactant | triethylamine | 5.18 mmol, 0.723 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropanesulfonyl chloride | 4.58 mmol, 0.644 g | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | bis(pinacolato)diboron | 8.29 mmol, 2.106 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 12.44 mmol, 1.221 g | C(C)(=O)[O-].[K+]
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.415 mmol, 0.051 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NH4Cl water | [NH4+].[Cl-].O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(cyclopropylsulfonyl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine | C1(CC1)S(=O)(=O)N1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H30BNO4S
